US08859577B2
A stirred slurry of methyl 4-chloro-7-azaindole-2-carboxylate (100 mg, 0.48 mmol), tert-butyl 3-(hydroxy(methyl)boryl)benzoate (137 mg, 0.62 mmol), potassium phosphate (309 mg, 1.42 mmol), tetrakis(triphenylphosphine) palladium (28 mg, 0.02 mmol) in p-dioxane (3 mL)/water (1 mL) were heated at 100° C. for 15 hr. The reaction mixture was cooled, concentrated in vacuo and flash chromatographed (0-100% ethyl acetate:heptanes) to afford methyl 4-(3-(tert-butoxycarbonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate as a white powder (148 mg). 1H NMR (400 MHz, CHLOROFORM-d) d ppm 1.62 (s, 9H) 3.99 (s, 3H) 7.28 (d, J=5.23 Hz, 1H) 7.36 (d, J=2.62 Hz, 1H) 7.59 (t, 1H) 7.90 (d, 1H) 8.09 (d, 1H) 8.35 (t, 1H) 8.64 (d, J=4.70 Hz, 1H); m/z (M+1)=353.2.

reactant | methyl 4-chloro-7-azaindole-2-carboxylate | 0.48 mmol, 100 mg | ClC1=C2C=C(NC2=NC=C1)C(=O)OC | C9H7ClN2O2
reactant | tert-butyl 3-(hydroxy(methyl)boryl)benzoate | 0.62 mmol, 137 mg | OB(C=1C=C(C(=O)OC(C)(C)C)C=CC1)C | C12H17BO3
reactant | potassium phosphate | 1.42 mmol, 309 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 1 mL | O | H2O
solvent | p-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 0.02 mmol, 28 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | methyl 4-(3-(tert-butoxycarbonyl)phenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxylate | 148 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=C2C(=NC=C1)NC(=C2)C(=O)OC | C20H20N2O4
